US03959322
dl-17α-Ethyl-17-hydroxyestr-4-en-3-one
Stir dl-17α-ethyl-3-methoxyestra-2,5(10)-dien-17-ol (1.4 g) with concentrated hydrochloric acid (2.4 ml) in water (1.6 ml) and methanol (36 ml) for two hours. Add water, extract with ether and wash, dry and evaporate the ethereal solution. Recrystallize the product from ethyl acetate-ether to obtain the title compound (0.63 g), m.p. 173°-174.5°; ultraviolet absorption maximum at 240 mμ (ε17,500).

reactant | 17α-ethyl-3-methoxyestra-2,5(10)-dien-17-ol | 1.4 g | C(C)[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC=3CC(=CCC3[C@H]1CC2)OC)O | C21H32O2
reactant | hydrochloric acid | 2.4 ml | Cl | ClH
solvent | water | 1.6 ml | O | H2O
solvent | methanol | 36 ml | CO | CH4O
product | 17α-Ethyl-17-hydroxyestr-4-en-3-one | 0.63 g | C(C)[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)O | C20H30O2
